US09085570B2
A mixture of 4-[[(tert-butoxy)carbonyl]amino]cyclohexyl acetate (2.43 g, 9.44 mmol, 1.00 equiv), methanol (30 mL) and potassium carbonate (2 g, 14.37 mmol, 1.50 equiv) was stirred overnight at 25° C. The resulting mixture was concentrated under vacuum. Water (50 mL) was added and the resulting solution was extracted with 3×70 mL of dichloromethane. The organic layers were combined and washed with 2×200 mL of brine. The organic layer was dried over anhydrous sodium sulfate and concentrated under vacuum to give 2.19 g of crude tert-butyl N-(4-hydroxycyclohexyl)carbamate as yellow oil.

reactant | 4-[[(tert-butoxy)carbonyl]amino]cyclohexyl acetate | 9.44 mmol, 2.43 g, 1.00 equiv | C(C)(=O)OC1CCC(CC1)NC(=O)OC(C)(C)C | C13H23NO4
reactant | potassium carbonate | 14.37 mmol, 2 g, 1.50 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 30 mL | CO | CH4O
product | tert-butyl N-(4-hydroxycyclohexyl)carbamate | 2.19 g | OC1CCC(CC1)NC(OC(C)(C)C)=O | C11H21NO3
